US07037925B2
tert-Butyl 3-amino-2-methylbenzyl(ethyl)carbamate
To a solution of 3-[(ethylamino)methyl]-2-methylaniline (0.32 g, 1.95 mmol) in THF (20 ml), was added di-tert-butyl dicarbonate 0.43 g (1.97 mmol). After 16 h stirring at ambient temperature, the solvent evaporated, and the residue was purified by chromatography to give the title compound 0.51 g (99%) as a colourless oil.

reactant | 3-[(ethylamino)methyl]-2-methylaniline | 1.95 mmol, 0.32 g | C(C)NCC=1C(=C(N)C=CC1)C | C10H16N2
reactant | di-tert-butyl dicarbonate | 1.97 mmol, 0.43 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | tert-Butyl 3-amino-2-methylbenzyl(ethyl)carbamate | 0.51 g, 99% | NC=1C(=C(CN(C(OC(C)(C)C)=O)CC)C=CC1)C | C15H24N2O2
